US03953457
2-Hydrazinoquinoline (25.0 grams), 50 milliliters of trifluoroacetic acid, and 250 milliliters of xylene were combined in a 500-milliliter three-necked flask equipped with a condenser. The reaction mixture was refluxed overnight. In the morning it was allowed to cool and the solvent was stripped off, yielding 10 grams of a compound determined to be 2-(2-(trifluoroacetyl)hydrazino)quinoline. It was placed in 40 milliliters of phenol and refluxed for 20 hours. The reaction mixture was then steam distilled to remove the phenol, yielding the desired 1-trifluoromethyl-s-triazolo(4,3-a)quinoline product. It was recrystallized from ethanol, m.p., 133.5°-4.5°C.

reactant | 2-(2-(trifluoroacetyl)hydrazino)quinoline | FC(C(=O)NNC1=NC2=CC=CC=C2C=C1)(F)F | C11H8F3N3O
solvent | phenol | 40 milliliters | C1(=CC=CC=C1)O | C6H6O
product | 1-trifluoromethyl-s-triazolo(4,3-a)quinoline | FC(C1=NN=C2N1C1=CC=CC=C1C=C2)(F)F | C11H6F3N3
